US07598257B2
A mixture of 2-methyl-2-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]propanoic acid (23 mg, 0.000085 mol) and N,N-carbonyldiimidazole (CDI) (21 mg, 0.00013 mol) in 2 mL of DMF was stirred for 3 hours. An excess of solid NH4Cl and TEA was added to the mixture and this was stirred for 3 hours. The majority of solvent was removed in vacuo, and the crude residue was purified by preparative-HPLC (C18 eluting with a gradient of ACN/H2O containing 0.1% TFA) followed by re-purification via preparative-HPLC (C18 eluting with a gradient of ACN/H2O containing 0.15% NH4OH) to afford 2-methyl-2-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]propanamide (6 mg, 26%). 1H NMR (400 MHz, d6-DMSO): δ 11.63 (s, 1H), 8.44 (s, 1H), 8.16 (s, 1H), 8.14 (s, 1H), 7.47 (t, 1H), 7.29 (d, 1H), 7.21 (s, 1H), 6.93 (s, 1H), 6.80 (dd, 1H), 1.77 (s, 6H); MS(ES): 270 (M+1).

reactant | 2-methyl-2-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]propanoic acid | 0.000085 mol, 23 mg | CC(C(=O)O)(C)N1N=CC(=C1)C1=C2C(=NC=C1)NC=C2 | C14H14N4O2
reactant | N,N-carbonyldiimidazole | 0.00013 mol, 21 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-methyl-2-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]propanamide | 6 mg, 26% | CC(C(=O)N)(C)N1N=CC(=C1)C1=C2C(=NC=C1)NC=C2 | C14H15N5O
